US05266691
4-Nitrobenzyl 2-[(3R,4R)-4-(p-toluenesulfonylthio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-methyl-3-butenoate (XIIId)
A suspension of 4-nitrobenzyl 2-[(3R,4R)-4-[(benzothiazol-2-yl)dithio]-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-methyl-3-butenoate (XIIIc, 3.25 g, 0.005 mole) in acetone (90 mL) and water (10 mL) was treated at room temperature with silver nitrate (1.06 g, 0.00625 mole), followed by treatment with a solution of sodium p-toluenesulfinate hydrate (0.90 g, 0.050 mole) in acetone (70 mL) - water (10 mL). The slurry was stirred for 1 h at room temperature under darkness. It was then filtered through Celite, which was washed with acetone. The volume of the filterate was reduced in vacuo, and the product was extracted into ether (3×250 mL). The ether phase was dried over magnesium sulfate and concentrated. Flash chromatography (silica gel, 50% ethyl acetate in hexane) gave the pure title product, XIIId, as a solid (2.053 g, 62%).

reactant | 4-nitrobenzyl 2-[(3R,4R)-4-[(benzothiazol-2-yl)dithio]-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-methyl-3-butenoate | 0.005 mole, 3.25 g | S1C(=NC2=C1C=CC=C2)SS[C@@H]2[C@@H](C(N2C(C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=C)C)=O)NC(COC2=CC=CC=C2)=O | C30H26N4O7S3
reactant | sodium p-toluenesulfinate hydrate | 0.050 mole, 0.90 g | O.C1(=CC=C(C=C1)S(=O)[O-])C.[Na+]
solvent | acetone | 90 mL | CC(=O)C | C3H6O
solvent | water | 10 mL | O | H2O
solvent | acetone | 70 mL | CC(=O)C | C3H6O
catalyst | silver nitrate | 0.00625 mole, 1.06 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 10 mL | O | H2O
product | 4-Nitrobenzyl 2-[(3R,4R)-4-(p-toluenesulfonylthio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-methyl-3-butenoate | C1(=CC=C(C=C1)S(=O)(=O)S[C@@H]1[C@@H](C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=C)C)=O)NC(COC1=CC=CC=C1)=O)C | C30H29N3O9S2
